US09388161B2
A solution of (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (17.05 mg, 0.06 mmol) in DMF (500 μL) was added to a microwave reaction vial equipped with a magnetic stir bar. Bromocyclopropane (150 μL, 1.87 mmol), sodium iodide (8.99 mg, 0.060 mmol) and cesium carbonate (98 mg, 0.300 mmol) were then added and the reaction was sealed. The reaction was heated in the microwave at 180° C. for 6 h. The mixture was diluted with ethyl acetate and washed with brine. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated to afford (S)-1-(6-bromo-5-cyclopropoxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.019 g, 100%) which was used without further purification. MS (ESI, pos. ion) m/z 324, 326 [M+H]+.

reactant | (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.06 mmol, 17.05 mg | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
reactant | Bromocyclopropane | 1.87 mmol, 150 μL | BrC1CC1 | C3H5Br
reactant | sodium iodide | 0.060 mmol, 8.99 mg | [I-].[Na+]
reactant | cesium carbonate | 0.300 mmol, 98 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-(6-bromo-5-cyclopropoxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.019 g, 100% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1CC1 | C15H18BrNO2
